US07557213B2
To a solution of 0.050 g (0.169 mmol) of 3-(3,4-dimethyl-benzoyl)-6-fluoro-1H-quinolin-4-one 4tt in 1.0 mL of tetrahydrofuran was added 0.4 mL (0.5 M in toluene, 0.203 mmol) of potassium hexamethyldisilazide and the reaction solution was stirred for 5 min, followed by the addition of 50.9 mg (0.203 mmol) of 2-bromo-6-bromomethyl-pyridine in 0.5 ml of tetrahydrofuran. The resultant solution was stirred at 60° C. for 3 h. The reaction solution was quenched by the addition of water and the aqueous phase was extracted with 3×5 mL of ether. The combined organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to yield 58 mg of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-6-fluoro-1H-quinolin-4-one 4tt as a yellow solid: LC-MSD, m/z for C24H18BrFN2O2, [M+H]=465.4, 466.5, 467.4, 468.4; Reverse phase HPLC gradient, 20-95% acetonitrile with 0.1% TFA in 4 minutes, retention time=2.8 min; 1H NMR (400 MHz, CDCl3): δ 8.27 (1H, s), 8.12 (1H, m), 7.64 (1H, s), 7.56 (1H, m), 7.51 (1H, m), 7.47 (1H, m), 7.40-7.34 (2H, m), 7.19 (1H, m), 7.00 (1H, m), 5.46 (2H, s), 2.32 (3H, s), 2.31 (3H, s).

reactant | 3-(3,4-dimethyl-benzoyl)-6-fluoro-1H-quinolin-4-one | 0.169 mmol, 0.050 g | CC=1C=C(C(=O)C2=CNC3=CC=C(C=C3C2=O)F)C=CC1C | C18H14FNO2
reactant | potassium hexamethyldisilazide | 0.203 mmol, 0.5 M, 0.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 2-bromo-6-bromomethyl-pyridine | 0.203 mmol, 50.9 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-6-fluoro-1H-quinolin-4-one | 58 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC(=CC=C12)F)=O)C(C1=CC(=C(C=C1)C)C)=O | C24H18BrFN2O2
